US05045558
6 g of 4-formylbenzoic acid is dissolved in 100 ml of tetrahydrofuran and mixed with 100 ml of a 1-molar solution of propyl magnesium bromide in tetrahydrofuran. After 6 hours of reaction time at room temperature the mixture is stirred into 100 ml of 2M of hydrochloric acid, extracted with ether and the ether phase is concentrated by evaporation. The crystalline material is filtered off with toluene on a suction filter and dissolved in 45 ml of dioxane and 5 ml of water and treated with 1.5 g of sodium boron hydride. After 15 minutes at room temperature, the mixture is added to 1M of hydrochloric acid, extracted with ethyl acetate, dried, concentrated by evaporation and chromatographed on 120 g of silica gel [toluene/acetic acid/water (10:10:1); upper phase after addition of a little water)]. 4.04 g of 4-(1-hydroxybutyl)-benzoic acid with a melting point of 109°-113° C. is obtained.

reactant | 4-formylbenzoic acid | 6 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | propyl magnesium bromide | C(CC)[Mg]Br
reactant | hydrochloric acid | 2M, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(1-hydroxybutyl)-benzoic acid | 4.04 g | OC(CCC)C1=CC=C(C(=O)O)C=C1 | C11H14O3
